US07858777B2
Benzoic acid 2-[2-(4-dibenzo[b,f][1,4]-thiazepin-11-yl-piperazin-1-yl]-ethoxy]-ethyl ester
Benzoic acid 2-{2-[4-(2-phenylsulfanyl-phenylcarbamoyl)piperazin-1-yl]-ethoxy}-ethyl ester (2 g, 3.96 mmol), phosphorus oxychloride (15 ml) and phosphorus pentoxide (2 g) were charged into a reaction flask. Then the mixture was stirred at 90° C. for 19 h. Phosphorus oxychloride was evaporated in vacuo. Dichloromethane (20 ml) and ice-water (20 ml) were added to the residue. NaHCO3 was added until the pH was 7-8. The organic phase was separated, washed with saturated NaCl-water (10 ml), dried with Na2SO4 and evaporated. Yield of benzoic acid 2-[2-(4-dibenzo[b,f][1,4]-thiazepin-11-yl-piperazin-1-yl]-ethoxy]-ethyl ester 1.53 g.

reactant | Benzoic acid 2-{2-[4-(2-phenylsulfanyl-phenylcarbamoyl)piperazin-1-yl]-ethoxy}-ethyl ester | 3.96 mmol, 2 g | C1(=CC=CC=C1)SC1=C(C=CC=C1)NC(=O)N1CCN(CC1)CCOCCOC(C1=CC=CC=C1)=O | C28H31N3O4S
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus pentoxide | 2 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | Benzoic acid 2-[2-(4-dibenzo[b,f][1,4]-thiazepin-11-yl-piperazin-1-yl]-ethoxy]-ethyl ester | C1=CC=CC2=C1C(=NC1=C(S2)C=CC=C1)N1CCN(CC1)CCOCCOC(C1=CC=CC=C1)=O | C28H29N3O3S
